US07232821B2
5-{2-[5-methyl-2-(2,4-difluorobenzyloxy)phenyl]cyclopent-1-enyl}-3-(propionamido)benzoic acid 2,4-difluorobenzyl ester
Prepared by general procedure 5 but using 5-[2-(2-hydroxy-5-methylphenyl)cyclopent-1-enyl]-3-(propionamido)benzoic acid instead of 6-[2-(5-chloro-2-hydroxyphenyl)cyclopent-1-enyl]pyridine-2-carboxylic acid, 2,4-difluorobenzyl bromide instead of 4-chlorobenzyl bromide and acetone instead of 2-butanone.

reactant | 5-[2-(2-hydroxy-5-methylphenyl)cyclopent-1-enyl]-3-(propionamido)benzoic acid | OC1=C(C=C(C=C1)C)C1=C(CCC1)C=1C=C(C=C(C(=O)O)C1)NC(CC)=O | C22H23NO4
reactant | 2,4-difluorobenzyl bromide | FC1=C(CBr)C=CC(=C1)F | C7H5BrF2
solvent | acetone | CC(=O)C | C3H6O
product | 5-{2-[5-methyl-2-(2,4-difluorobenzyloxy)phenyl]cyclopent-1-enyl}-3-(propionamido)benzoic acid 2,4-difluorobenzyl ester | FC1=C(COC(C2=CC(=CC(=C2)C2=C(CCC2)C2=C(C=CC(=C2)C)OCC2=C(C=C(C=C2)F)F)NC(CC)=O)=O)C=CC(=C1)F | C36H31F4NO4
